US09101135B2
(6-3) Production of 3-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)amino]benzoic acid
To 5 ml of ethanol were added 0.5 g of ethyl 3-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)amino]benzoate and a 1N sodium hydroxide aqueous solution, and the resultant mixture was stirred at room temperature for 1.5 hours. After the reaction solution was controlled to pH 3 by dropwise adding 1N hydrochloric acid, ethyl acetate was added to the reaction solution, and an organic layer was separated. The organic layer was washed with water twice and washed with a saturated saline solution once, and then dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 0.45 g (yield 98%) of the title compound as a solid.

reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | ethyl 3-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)amino]benzoate | 0.5 g | CN(C(=O)OCC(Cl)(Cl)Cl)C=1C=C(C(=O)OCC)C=CC1 | C13H14Cl3NO4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)amino]benzoic acid | 0.45 g, yield 98% | CN(C(=O)OCC(Cl)(Cl)Cl)C=1C=C(C(=O)O)C=CC1 | C11H10Cl3NO4
